US08124249B2
a) 9,10-Bis(2-hydroxyphenyl)anthracene
2.3 g (2 mmol) of tetrakistriphenylphosphinopalladium(0) are added to a well-stirred, degassed suspension of 33.6 g (100 mmol) of 9,10-dibromo-anthracene, 45.6 g (300 mmol) of 2-methoxybenzeneboronic acid and 55.1 g (520 mmol) of sodium carbonate in a mixture of 500 ml of 1,2-di-methoxyethane, 150 ml of ethanol and 400 ml of water, and the mixture is refluxed for 60 h. After cooling, the organic phase is separated off, washed three times with 500 ml of water and once with 500 ml of saturated, aqueous sodium chloride solution and subsequently dried over magnesium sulfate. After the drying agent has been filtered off, the organic phase is evaporated to dryness under reduced pressure. The oily residue obtained in this way is dissolved in 300 ml of chloroform and filtered off via a silica-gel frit with suction. After the chloroform phase has been evaporated under reduced pressure, the pasty residue is taken up in 500 ml of NMP, 107.1 g (800 mmol) of lithium iodide (anhydrous) are added, and the mixture is stirred at 190° C. for 24 h. After cooling, the reaction mixture is introduced into 2000 ml of 1N HCl with stirring. The precipitated solid is filtered off and washed three times with 200 ml of water each time and three times with 100 ml of ethanol each time. Finally, the product is recrystallised once from DMSO (10 ml/g) and once from dioxane (20 ml/g) and then dried under reduced pressure. Yield: 24.8 g, 68.4% of theory, purity: 98.0% according to HPLC. The compound does not exhibit the occurrence of atropisomers, evident from the temperature-independent 1H-NMR spectrum with singlet for the OH groups, an AA′BB′ component of the anthracene protons and an ABCD component of the o-phenylene groups.

reactant | 9,10-dibromo-anthracene | 100 mmol, 33.6 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | 2-methoxybenzeneboronic acid | 300 mmol, 45.6 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 520 mmol, 55.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium iodide | 800 mmol, 107.1 g | [I-].[Li+]
reactant | HCl | 1N, 2000 ml | Cl | ClH
solvent | 1,2-di-methoxyethane | 500 ml | COCCOC | C4H10O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakistriphenylphosphinopalladium(0) | 2 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 400 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 9,10-Bis(2-hydroxyphenyl)anthracene | OC1=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=C(C=CC=C1)O | C26H18O2
